US06667322B2
To a solution of (2S)-4-[2-(benzyloxy)-3-methoxyphenyl]-1,2-butanediol (12.00 g, 39.7 mmol) in ethanol (400 mL) was added palladium on carbon (10 wt. %, 1.2 g) and the reaction mixture was shaken under an H2 atmosphere (50 psi) for 12 h. The reaction mixture was filtered (celite) and the solvent removed in vacuo to provide a crude oil. The residue was dissolved in hydrogen bromide (30 wt. % in acetic acid, 100 mL) and the reaction mixture was stirred at 0° C. for 2 h. The reaction mixture was quenched by the addition of water (500 mL) and extracted with ethyl acetate (3×200 mL). The combined organic extracts were washed with water (3×200 mL), aqueous sodium chloride (300 mL), dried (magnesium sulfate), and the solvent was removed in vacuo to provide a crude oil. The residue was dissolved in methanol (100 mL) and the resulting solution was slowly added to a solution of aqueous sodium hydroxide (2.5 M, 150 mL) in water (350 mL) and the reaction mixture was allowed to stir at 0° C. for 30 min. The reaction mixture was quenched by the addition of aqueous hydrogen chloride (1.0 M, 500 mL) and was extracted with ethyl acetate (3×200 mL). The combined organic extracts were washed with water (2×200 mL), aqueous sodium chloride (300 mL), dried (magnesium sulfate), and the solvent was removed in vacuo to provide a crude oil. Purification by flash column chromatography (silica, ethyl acetate:hexanes 1:1) gave 5.38 g (70%, 40% ee) of [(2R)-8-methoxy-3,4-dihydro-2H-chromen-2-yl]methanol as a white crystalline solid. [α]D25−60.51 (c 9.62 in chloroform, 40% ee); Rf=0.52 (silica, ethyl acetate:hexanes 1:1); mp 65-69° C.; Anal. Calcd. for C11H14O3: C, 68.02; H, 7.27. Found: C, 67.92; H, 7.30.

reactant | (2S)-4-[2-(benzyloxy)-3-methoxyphenyl]-1,2-butanediol | 39.7 mmol, 12.00 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1OC)CC[C@@H](CO)O | C18H22O4
reactant | sodium hydroxide | 2.5 M, 150 mL | [OH-].[Na+]
solvent | ethanol | 400 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 1.2 g | [Pd] | Pd
solvent | hydrogen bromide | 100 mL | Br | BrH
solvent | methanol | 100 mL | CO | CH4O
solvent | water | 350 mL | O | H2O
product | [(2R)-8-methoxy-3,4-dihydro-2H-chromen-2-yl]methanol | 5.38 g, 70% | COC=1C=CC=C2CC[C@@H](OC12)CO | C11H14O3
